US03994888
t-Butyl 7-amino-3-methyl-3-cephem-4-carboxylate.
In accordance with the procedure of Example 2, t-butyl 7-(2-carboxybenzamido)-3-methyl-3-cephem-4-carboxylate is converted to t-butyl 7-amino-3-methyl-3-cephem-4-carboxylate hydrochloride. The hydrochloride salt is converted to the free amino este, a colorless solid, using ethyl acetate and sodium bicarbonate.

reactant | t-butyl 7-(2-carboxybenzamido)-3-methyl-3-cephem-4-carboxylate | C(=O)(O)C1=C(C(=O)NC2[C@@H]3N(C(=C(CS3)C)C(=O)OC(C)(C)C)C2=O)C=CC=C1 | C20H22N2O6S
reactant | t-butyl 7-amino-3-methyl-3-cephem-4-carboxylate hydrochloride | Cl.NC1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C)(C)C)C1=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-Butyl 7-amino-3-methyl-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C)(C)C)C1=O | C12H18N2O3S
